US04882330
4-(4-Chloro-2-hydroxybutoxy)benzonitrile
Utilizing the procedure of Preparation 16, 1,4-dichloro-2-butanol was reacted with 4-cyanophenol to give white title compound, m.p. 78°-80° C. in 13% yield.

reactant | 1,4-dichloro-2-butanol | ClCC(CCCl)O | C4H8Cl2O
reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
product | 4-(4-Chloro-2-hydroxybutoxy)benzonitrile | 13% yield | ClCCC(COC1=CC=C(C#N)C=C1)O | C11H12ClNO2
